### PR TITLE
[Merged by Bors] - chore(MeasureTheory): Move lemmas and deprecate duplicates

### PR DESCRIPTION
**Pull request by D-Thomine**
This PR moves a few lemmas around in `MeasureTheory.Measure`; basically, if a lemma can be expressed and proved elementarily, it is moved upstream. For instance, if a lemma has `μ ≤ ν` has an hypothesis, it may be proved as a special case of a lemma about absolutely continuous measures, but may also be proved as easily by more elementary considerations, which means it can be moved to more suitable files upstream (e.g. to `MeasureTheory.Measure.MeasureSpace` instead of `MeasureTheory.Measure.AbsolutelyContinuous`).

This also slightly simplifies imports and allowed me to detect two exact duplicates.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by EtienneC30** [comment]
Can you merge master and bench please?

File: Mathlib/MeasureTheory/Measure/AbsolutelyContinuous.lean [hunk 1]
```diff
@@ -184,14 +184,18 @@ protected theorem AEDisjoint.of_absolutelyContinuous
...
+  obtain ⟨t, ht, hst⟩ := h
+  exact ⟨t, ht, hst.filter_mono (ν.ae_le_iff_absolutelyContinuous.2 hle)⟩
+
+theorem ae_eq_comp' {ν : Measure β} {f : α → β} {g g' : β → δ} (hf : AEMeasurable f μ)
+    (h : g =ᵐ[ν] g') (h2 : μ.map f ≪ ν) : g ∘ f =ᵐ[μ] g' ∘ f :=
+  (μ.tendsto_ae_map hf).mono_right h2.ae_le h
+
+theorem ae_eq_comp {f : α → β} {g g' : β → δ} (hf : AEMeasurable f μ) (h : g =ᵐ[μ.map f] g') :
+    g ∘ f =ᵐ[μ] g' ∘ f :=
+  ae_eq_comp' hf h Measure.AbsolutelyContinuous.rfl
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/AbsolutelyContinuous.lean]:
```suggestion
  ae_eq_comp' hf h .rfl
```

File: Mathlib/MeasureTheory/Measure/QuasiMeasurePreserving.lean [hunk 2]
```diff
@@ -114,6 +114,8 @@ theorem ae_eq (h : QuasiMeasurePreserving f μa μb) {g₁ g₂ : β → δ} (hg
     g₁ ∘ f =ᵐ[μa] g₂ ∘ f :=
   h.ae hg
 
+@[deprecated (since := "2026-08-01")] alias ae_eq_comp := ae_eq
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/QuasiMeasurePreserving.lean]: I prefer the name `ae_eq_comp` to `ae_eq` personally, I find it more informative, so I think it would be better to deprecate `ae_eq` instead.

File: Mathlib/MeasureTheory/Measure/NullMeasurable.lean [hunk 3]
```diff
@@ -414,6 +414,20 @@ theorem NullMeasurable.congr {g : α → β} (hf : NullMeasurable f μ) (hg : f
 
 end NullMeasurable
 
+section AEMeasurable
+
+variable [m : MeasurableSpace α] [MeasurableSpace β] {μ : Measure α} {f : α → β}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/NullMeasurable.lean]: While we are at it:
```suggestion
variable {m : MeasurableSpace α} [MeasurableSpace β] {μ : Measure α} {f : α → β}
```

**Comment by D-Thomine** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/f14f21c2ead3285ea4cf499afb3e20c5f7df837a?reference=639923353ff2a58e9976a254e0d40f4bebae36bc) for f14f21c2ead3285ea4cf499afb3e20c5f7df837a against 639923353ff2a58e9976a254e0d40f4bebae36bc are in. No significant results found. @D-Thomine

- 🟥 `build//instructions`: **+5.7G** (**+0.00%**)

No significant changes detected.

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 4]
```diff
@@ -1477,6 +1469,36 @@ instance Measure.ae.neBot [NeZero μ] : (ae μ).NeBot := ae_neBot.2 <| NeZero.ne
 theorem ae_zero {_m0 : MeasurableSpace α} : ae (0 : Measure α) = ⊥ :=
   ae_eq_bot.2 rfl
 
+@[gcongr, mono]
+theorem ae_mono (h : μ ≤ ν) : ae μ ≤ ae ν :=
+  fun s hs ↦ bot_unique <| (Pi.le_def.1 h sᶜ).trans hs.le
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean]:
```suggestion
  fun s hs ↦ bot_unique <| (h sᶜ).trans hs.le
```

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 5]
```diff
@@ -1477,6 +1469,36 @@ instance Measure.ae.neBot [NeZero μ] : (ae μ).NeBot := ae_neBot.2 <| NeZero.ne
...
+
+protected theorem AEDisjoint.of_le (h : AEDisjoint μ s t) {ν : Measure α} (h' : ν ≤ μ) :
+    AEDisjoint ν s t :=
+  bot_unique <| (Pi.le_def.1 h' (s ∩ t)).trans h.le
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean]:
```suggestion
  bot_unique <| (h' (s ∩ t)).trans h.le
```

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 6]
```diff
@@ -1477,6 +1469,36 @@ instance Measure.ae.neBot [NeZero μ] : (ae μ).NeBot := ae_neBot.2 <| NeZero.ne
...
+theorem NullMeasurableSet.mono (h : NullMeasurableSet s μ) (h' : ν ≤ μ) :
+    NullMeasurableSet s ν := by
+  obtain ⟨t, ht, hst⟩ := h
+  exact ⟨t, ht, hst.filter_mono (ae_mono h')⟩
+
+lemma NullMeasurableSet.smul_measure (h : NullMeasurableSet s μ) (c : ℝ≥0∞) :
+    NullMeasurableSet s (c • μ) := by
+  obtain ⟨t, ht, hst⟩ := h
+  refine ⟨t, ht, hst.filter_mono fun u hu ↦ ?_⟩
+  rw [mem_ae_iff, μ.smul_apply, smul_eq_mul, mem_ae_iff.2 hu, mul_zero]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean]:
```suggestion
  exact ⟨t, ht, hst.filter_mono (μ.ae_smul_measure_le c)⟩
```

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 7]
```diff
@@ -1477,6 +1469,36 @@ instance Measure.ae.neBot [NeZero μ] : (ae μ).NeBot := ae_neBot.2 <| NeZero.ne
...
+
+lemma nullMeasurableSet_smul_measure_iff {c : ℝ≥0∞} (hc : c ≠ 0) :
+    NullMeasurableSet s (c • μ) ↔ NullMeasurableSet s μ := by
+  refine ⟨fun ⟨t, ht, hst⟩ ↦ ⟨t, ht,  hst.filter_mono fun u hu ↦ ?_⟩, fun h ↦ h.smul_measure c⟩
+  rw [mem_ae_iff, μ.smul_apply, smul_eq_mul, mul_eq_zero, or_iff_not_imp_left] at hu
+  exact hu hc
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean]:
```suggestion
    NullMeasurableSet s (c • μ) ↔ NullMeasurableSet s μ :=
  ⟨fun ⟨t, ht, hst⟩ ↦ ⟨t, ht, hst.filter_mono (μ.ae_ennreal_smul_measure_eq hc).symm.le⟩,
    fun h ↦ h.smul_measure c⟩
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean (hunk 7 above)
Comment (D-Thomine) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean]: Thanks for the idea of using `ae_ennreal_smul_measure_eq`; I've found a one-liner.

File: Mathlib/MeasureTheory/Measure/QuasiMeasurePreserving.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/MeasureTheory/Measure/QuasiMeasurePreserving.lean]: I was hesitating between these two options. `ae_eq_comp` it is!

**Comment by D-Thomine** [comment]
Thank you for your review! All suggestions were implemented without any issue.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by j-loreaux** [comment]
Thanks!

bors merge
